US06265349B1
Preparation of 3-(4-chloro-2-fluoro-5-propargyloxymethylphenyl)-1-methyl-6-trifluoromethyl-2(1H)-pyridone (Compound No. 1-199)
0.04 g (1.10 mmol) of sodium hydride was suspended in 5 ml of DMF, and 0.06 g (1.10 mmol) of propargyl alcohol was dropwise added thereto at room temperature, followed by stirring for 30 minutes. Then, 0.40 g (1.00 mmol) of 3-(4-chloro-2-fluoro-5-bromomethylphenyl)-1-methyl-6-trifluoromethyl-2(1H)-pyridone was dissolved in 5 ml of DMF, and dropwise added thereto, followed by stirring for 2 hours. The reaction mixture was poured into water and extracted with ethyl ether. The extract was dried over magnesium sulfate. Then, the solvent was distilled off under reduced pressure. Then, the obtained residue was purified by silica gel column chromatography to obtain 0.34 g (yield: 91%) of the desired product. Melting point: 99-101C.

reactant | sodium hydride | 1.10 mmol, 0.04 g | [H-].[Na+]
reactant | propargyl alcohol | 1.10 mmol, 0.06 g | C(C#C)O | C3H4O
reactant | 3-(4-chloro-2-fluoro-5-bromomethylphenyl)-1-methyl-6-trifluoromethyl-2(1H)-pyridone | 1.00 mmol, 0.40 g | ClC1=CC(=C(C=C1CBr)C=1C(N(C(=CC1)C(F)(F)F)C)=O)F | C14H9BrClF4NO
reactant | water | O | H2O
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 3-(4-chloro-2-fluoro-5-propargyloxymethylphenyl)-1-methyl-6-trifluoromethyl-2(1H)-pyridone | 0.34 g, yield: 91% | ClC1=CC(=C(C=C1COCC#C)C=1C(N(C(=CC1)C(F)(F)F)C)=O)F | C17H12ClF4NO2
